US07282583B2
Step 1: Production of 3-(Dimethoxymethyl)-2-methoxyoxolane
Into a dried 3L three neck-round bottom flask with a stirrer bar, nitrogen-inlet, thermocouple and a 1L-addition funnel was charged 1227.2 g (11.56 mol) of trimethyl-orthoformate, which was cooled to −5° C. to −3° C. while agitating. The reaction mixture was charged with 3.855 g BF3.Et2O (21 mmol) while agitating under nitrogen. The addition funnel was then charged with a mixture of 315.41 g 2,3-dihydrofurane (4.5 mol) and 434.64 g trimethylorthoformate (4.1 mol) and this mixture was added to the reaction mixture over a period of 160-180 minutes while maintaining the temperature at −5° to −3° C. After the addition was complete, the reaction was quenched with 3.24 g NaOH (81 mmol) in 12.96 g MeOH and left 16 h at 15° C. The reaction mixture was filtered and distilled first under atmospheric pressure, then under reduced pressure. The intermediate product obtained boils at 79-85° C. at 6.8-6.9 mmHg and is a mixture of diastereomers.

reactant | trimethyl-orthoformate | 11.56 mol, 1227.2 g | COC(OC)OC | C4H10O3
reactant | BF3.Et2O | 21 mmol, 3.855 g | B(F)(F)F.CCOCC
reactant | 2,3-dihydrofurane | 4.5 mol, 315.41 g | O1CCC=C1 | C4H6O
reactant | trimethylorthoformate | 4.1 mol, 434.64 g | COC(OC)OC | C4H10O3
reactant | NaOH | 81 mmol, 3.24 g | [OH-].[Na+]
solvent | MeOH | 12.96 g | CO | CH4O
product | 3-(Dimethoxymethyl)-2-methoxyoxolane | COC(C1C(OCC1)OC)OC | C8H16O4
